US06022906
1c 1-[4-(3-mercaptopropylthio)phenyl]-2-methyl-2-morpholine-4-yl-propan-1-one
52.8 g (0.488 mol) of 1,3-propanedithiol are dissolved in 100 ml of dry dimethylacetamide, 22.0 g of potassium carbonate are added and the solution is heated to about 40° C. 20.0 g (0.08 mol) of 1-(4-fluorophenyl)-2-methyl-2-morpholine-4-yl-propan-1-one in 50 ml of dry dimethylacetamide are added dropwise over 14 h. The resulting suspension is stirred for additional 5 h, then the solid is filtered off and washed with toluene. From the filtrate the excess 1,3-propanedithiol and toluene are distilled off. The residue is dissolved in ethyl acetate and the resulting solution is washed with saturated ammonium chloride solution, is dried over MgSO4 and concentrated. The residue is recrystallized from ethanol. The obtained product has a melting point of 67-68° C. The structure is confirmed by the 1H-NMR-spectrum, measured in CDCl3. The signals (δ in ppm) are 1.31 (s, 6H), 1.39 (t, 1H), 2.00 (m,2H), 2.57 (t,4H), 2.70 (q,2H), 3.13 (t,2H), 3.69 (t,4H), 7.28 (d,2H), 8.50 (d, 2H).

reactant | 1,3-propanedithiol | 0.488 mol, 52.8 g | C(CCS)S | C3H8S2
reactant | potassium carbonate | 22.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-fluorophenyl)-2-methyl-2-morpholine-4-yl-propan-1-one | 0.08 mol, 20.0 g | FC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H18FNO2
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | 1-[4-(3-mercaptopropylthio)phenyl]-2-methyl-2-morpholine-4-yl-propan-1-one | SCCCSC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C17H25NO2S2
